US07759337B2
A solution of (2-fluoro-3-iodo-4-methylphenyl)methanol (1.69 g, 6.35 mmol) in DCM (50 mL) at ambient temperature was treated with MnO2 (5.57 g, 63.5 mmol) and the resulting mixture was stirred overnight. The mixture was filtered through a pad of Celite® eluting with DCM. The filtrate was concentrated and the residue was loaded on an ISCO column (40 g, eluted with 15-35% ethyl acetate in hexanes) to provide 2-fluoro-3-iodo-4-methylbenzaldehyde as an off white solid. MS (ESI, pos. ion) m/z: 264.9 (M+1).

reactant | (2-fluoro-3-iodo-4-methylphenyl)methanol | 6.35 mmol, 1.69 g | FC1=C(C=CC(=C1I)C)CO | C8H8FIO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 63.5 mmol, 5.57 g | O=[Mn]=O
product | 2-fluoro-3-iodo-4-methylbenzaldehyde | FC1=C(C=O)C=CC(=C1I)C | C8H6FIO
